US04443248
Preparation of Ethyl 2-[ 5-(2-Bromo-4-nitrophenoxy)-2-methylthiophenoxy]propionate
5-(2-Bromo-4-nitrophenoxy)-2-(methylthio)phenol (0.05 mole) potassium carbonate (0.2 mole), ethyl 2-bromopropionate (0.08 mole) and dimethylsulfoxide (200 ml) are charged into a 500 ml glass reaction flask equipped with a mechanical stirrer. The reaction mixture is stirred at room temperature for a period of about 8 hours. After this time the mixture is poured into 500 ml of water. The resulting mixture is extracted three times with 100 ml portions of methylene chloride. The extracts are then combined, washed with water and thereafter dried. The dried solution is then stripped of solvent under reduced pressure to leave a residue. The residue is subjected to chromatography using a clay column and hexane/ethyl acetate mixtures as the eluant. The fractions containing the product are combined and stripped of solvent to yield the desired product ethyl-2-[5-(2-bromo-4-nitrophenoxy)-2-methylthiophenoxy]propionate as the residue.

reactant | 5-(2-Bromo-4-nitrophenoxy)-2-(methylthio)phenol | 0.05 mole | BrC1=C(OC=2C=CC(=C(C2)O)SC)C=CC(=C1)[N+](=O)[O-] | C13H10BrNO4S
reactant | ethyl 2-bromopropionate | 0.08 mole | BrC(C(=O)OCC)C | C5H9BrO2
reactant | dimethylsulfoxide | 200 ml | CS(=O)C | C2H6OS
reactant | water | 500 ml | O | H2O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | ethyl-2-[5-(2-bromo-4-nitrophenoxy)-2-methylthiophenoxy]propionate | C(C)OC(C(C)SC1=C(C=CC(=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])Br)C)=O | C18H18BrNO5S
